Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left Subdural Hematoma
 
Major Surgical or Invasive Procedure:
___ - Left Craniotomy for Evacuation of Subdural 
Hematoma.

 
History of Present Illness:
___ is a ___ male who presents to ___ 
on
___ with a moderate TBI. Pt fell 6 weeks ago, did not seek
medical attention at that time.  He travelled to ___ and
returned 1 week ago.  Since that time he and his family have
noticed difficulty with multistep tasks, forgetfulness.  Pt
developed difficulty writing with his right hand and has been
dragging his right leg.  Feels unsteady walking. 

 
Past Medical History:
PSHx:  
right hand tendon release                       

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
O:  T: 97.4   HR:74  BP: 127/95 RR:16 Sat:98% RA    

GCS upon Neurosurgery Evaluation: 14

Airway:  [x]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [x]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:
Gen: WD/WN, comfortable, NAD.
HEENT: normocephalic, atraumatic
Neck: 
Extrem: warm and well perfused

Neuro:
Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place but not to date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 5 to 4mm
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. 
Subtle right drift
Right upper and lower extremities with trace weakness.
Left upper and lower extremities ___

Sensation: Intact to light touch

PHYSICAL EXAMINATION ON DISCHARGE:
XXX

 
Pertinent Results:
Please see OMR for for pertinent results. 
 
Brief Hospital Course:
#Subdural Hematoma
The patient was evaluated by his PCP ___ ___ and sent to the ED 
at which time he underwent a CT of the head which showed a large 
2.7cm left SDH with 1.1cm MLS. He was admitted to the 
Neurosurgery service, ___ for close monitoring. On ___, the 
patient was taken to the OR and underwent a left craniotomy for 
evacuate the subdural hematoma. He tolerated the procedure well 
and was recovered in the PACU and later transferred back to the 
___. The patient remained neurologically intact on ___. On 
___, the subdural drain was removed without difficulty. The 
patient was tolerating a diet, voiding and ambulating 
independently and it was determined he would be discharged to 
home. 

 
Medications on Admission:
Atorvastatin
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  LevETIRAcetam 1000 mg PO Q12H 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*2 
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drive or operative heavy machinery while taking this 
medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*20 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left Subdural Hemaotma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Brain Hemorrhage with Surgery

Surgery
•You underwent a surgery called a craniotomy to have blood 
removed from your brain. 
•Please keep your staples along your incision dry until they 
are removed.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
•You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptoms after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit.
•Nausea and/or vomiting.
•Extreme sleepiness and not being able to stay awake.
•Severe headaches not relieved by pain relievers.
•Seizures.
•Any new problems with your vision or ability to speak.
•Weakness or changes in sensation in your face, arms, or leg.

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg.
•Sudden confusion or trouble speaking or understanding.
•Sudden trouble walking, dizziness, or loss of balance or 
coordination.
•Sudden severe headaches with no known reason.

 
Followup Instructions:
___